US08871767B2
N-(5-(3-(4-fluorophenyl)-6-methoxyimidazo[1,2-b]pyridazin-2-yl)-2-methylphenyl)pivalamide
A stirred solution of 5-(3-(4-fluorophenyl)-6-methoxyimidazo[1,2-b]pyridazin-2-yl)-2-methylaniline (0.025 g, 0.072 mmol) in acetonitrile (1 mL) containing pyridine (0.215 mmol) is added trimethylacetylchloride (0.072 mmol). The mixture is stirred at room temperature for 4 hours, then concentrated to dryness and purified via chromatography (hexanes to EtOAc) to afford the title compound (0.028 g, 90%) as a yellow solid: Rf 0.28 (1:1 EtOAc:hexanes); LCMS (m/z)=433.5 [M+H]+, tR=2.74 min. (compound same as Example 114)

reactant | 5-(3-(4-fluorophenyl)-6-methoxyimidazo[1,2-b]pyridazin-2-yl)-2-methylaniline | 0.072 mmol, 0.025 g | FC1=CC=C(C=C1)C1=C(N=C2N1N=C(C=C2)OC)C=2C=CC(=C(N)C2)C | C20H17FN4O
reactant | pyridine | 0.215 mmol | N1=CC=CC=C1 | C5H5N
reactant | trimethylacetylchloride | 0.072 mmol | CC(C(=O)Cl)(C)C | C5H9ClO
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
product | N-(5-(3-(4-fluorophenyl)-6-methoxyimidazo[1,2-b]pyridazin-2-yl)-2-methylphenyl)pivalamide | 0.028 g, 90% | FC1=CC=C(C=C1)C1=C(N=C2N1N=C(C=C2)OC)C=2C=CC(=C(C2)NC(C(C)(C)C)=O)C | C25H25FN4O2
